US06608049B2
In an analogous manner to the procedure of Example XVIII, 136 mg (0.715 mmol) of 5-hydroxy-3-isobutyl-1H-indazole are reacted with 99 mg (0.715 mmol) of potassium carbonate and 121 mg (0.715 mmol) of 4-fluoro-3,5-dimethylnitrobenzene in 5 ml of DMSO to give 92 mg (38%) of 5-(2,6-dimethyl-4-nitrophenoxy)-3-isobutyl-1H-indazole.

reactant | 5-hydroxy-3-isobutyl-1H-indazole | 0.715 mmol, 136 mg | OC=1C=C2C(=NNC2=CC1)CC(C)C | C11H14N2O
reactant | potassium carbonate | 0.715 mmol, 99 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoro-3,5-dimethylnitrobenzene | 0.715 mmol, 121 mg | FC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8FNO2
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 5-(2,6-dimethyl-4-nitrophenoxy)-3-isobutyl-1H-indazole | 92 mg, 38% | CC1=C(OC=2C=C3C(=NNC3=CC2)CC(C)C)C(=CC(=C1)[N+](=O)[O-])C | C19H21N3O3
